US06339093B1
(R)-1-[4-(3,4-Dihydro-1H-isoquinolin-2-yl)-quinolin-2-yl]-pyrrolidin-3-ol hydrochloride
The title compound, m.p. 270-274° C., [α]D20 =−34° (c=0.54, methanol) and MS: m/e=346.3 (M+H+), was prepared from 2-chloro-4-(3,4-dihydro-1H-isoquinolin-2yl)-quinoline and (R)-3-hydroxypyrrolidine

reactant | 2-chloro-4-(3,4-dihydro-1H-isoquinolin-2yl)-quinoline | ClC1=NC2=CC=CC=C2C(=C1)N1CC2=CC=CC=C2CC1 | C18H15ClN2
reactant | (R)-3-hydroxypyrrolidine | O[C@H]1CNCC1 | C4H9NO
solvent | methanol | CO | CH4O
product | (R)-1-[4-(3,4-Dihydro-1H-isoquinolin-2-yl)-quinolin-2-yl]-pyrrolidin-3-ol hydrochloride | Cl.C1N(CCC2=CC=CC=C12)C1=CC(=NC2=CC=CC=C12)N1C[C@@H](CC1)O | InChI=1S/C22H23N3O.ClH/c26-18-10-12-25(15-18)22-13-21(19-7-3-4-8-20(19)23-22)24-11-9-16-5-1-2-6-17(16)14-24;/h1-8,13,18,26H,9-12,14-15H2;1H/t18-;/m1./s1
